Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CP
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman who smokes with a PMH notable 
for asthma (no use of albuterol sulfate for ___, PTSD, MDD who 
complains of 4 days with nonproductive cough accompanied by 
chest pain in the last day.

She arrived to ED from home on the evening of ___ with chest 
pain that she describes as triggered by her cough over the past 
four days. CP described as initially a mild "tightness" that was 
tender and worse with her coughing. CP not worse with exertion, 
inconsistently described as radiating to left arm. No 
diaphoresis, some N recently but no vomiting. Recently has been 
having URI symptoms of nonproductive cough, congestion, 
rhinorrhea, facial pressure and sinus tenderness for 
approximately four days without f/c/s, SOB. Also associated with 
a few episodes of diarrhea now resolved. No known sick contacts 
but works as a ___. 

Upon arrival to the ED, she received nebulizers with some 
improvement but declined additional ones as she said she was 
getting "jittery" and her chest tightness felt like it was 
getting worse. She said it felt like her previous panic attacks. 
She was also given methylpred, magnesium and azithromycin (as 
active smoker, no COPD history). 

In the ED, initial VS were T98.4, hr99, bp119/67, rr16, 100%RA
Exam notable for amb sat 100% on RA, peak flow 250, coarse 
breath sounds diffusely

Labs showed  no leukocytosis, no anemia, no ___
Imaging showed  no pna or pulm edema
Received duoneb x3, mg sulfate 2 gm, methylpred 125 mg, azithro 
500 mg
Transfer VS were 97.9, 121/68, 97, 18, 99%RA

Decision was made to admit to medicine for further management.  
On arrival to the floor, patient reports no SOB. Chest feels 
still "tight" and sore but better than when she was in the ED. 
No current diaphoresis, n/v, abd pain.
 
Past Medical History:
-Asthma: reports diagnosis in ___ years ago as a 
child. Last used home albuterol ___ year ago. Never hospitalized 
or intubated for asthma
-PTSD
-Major Depression
-LBP
-Tobacco abuse
-joint pain
-GERD

 
Social History:
___
Family History:
- Mother - passed away due to MI; TB-positive
- Father - asthma
- Sister 1 - passed away due to pancreatic carcinoma
- Sister 2 - TB-positive; DM
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS -  Temp: 99.1 HR: 90 BP: 145/75 Resp: 14 O(2)Sat: 100 Normal
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition, mild bilateral facial pain
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: breathing without use of accessory muscles. mild 
end-expiratory wheezing; coughs following deep inspiration; 
otherwise good aeration to bases. 
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE PHYSICAL EXAM:
VS - Tmax 98.6 Tc 98.1 HR 85 BP 107/57 RR 18 02sat 98 on RA  
General: well appearing, NAD  
HEENT: MMM, EOMI  
Neck: no JVD, no LAD  
CV: rrr, no m/r/g, sternum no longer tender  
Lungs: CTAB improved from yesterday, no longer present after 
initial deep breathing; breathing comfortably  
Abdomen: soft, nontender, nondistended, no HSM appreciated  
GU: deferred  
Ext: warm and well perfused, pulses, no edema  
Neuro: grossly normal  

 
Pertinent Results:
ADMISSION LABS

___ 12:00AM BLOOD WBC-5.7 RBC-4.24 Hgb-11.7 Hct-37.5 
MCV-88# MCH-27.6 MCHC-31.2* RDW-15.3 RDWSD-49.2* Plt ___
___ 12:00AM BLOOD Glucose-92 UreaN-9 Creat-0.5 Na-139 K-3.7 
Cl-102 HCO3-29 AnGap-12
___ 12:00AM BLOOD CK-MB-6 cTropnT-<0.01

CXR ___ no acute cardiopulmonary process

DISCHARGE LABS

___ 06:50AM BLOOD WBC-8.8# RBC-4.13 Hgb-11.4 Hct-35.8 
MCV-87 MCH-27.6 MCHC-31.8* RDW-15.5 RDWSD-48.8* Plt ___
___ 06:50AM BLOOD Glucose-113* UreaN-14 Creat-0.5 Na-138 
K-3.9 Cl-102 HCO3-25 AnGap-15
___ 06:50AM BLOOD Calcium-8.6 Phos-3.1 Mg-2.___ yo W with asthma presents with 4 days of URI symptoms, 
dyspnea, and CP with normal CXR and satting well on RA.

#URI: CXR in the ED was normal and she was without leukocytosis. 
Likely viral URI over bacterial. Doing well s/p nebs, Mg, 
methylpred, azithro in ED. No indication for further abx. Asthma 
exacerbation was also on the differential so she was monitored 
but did well without any neb treatments over the next day so she 
was not treated for asthma exacerbation. She has not had 
signifcant asthma symptoms since childhood however wheezes were 
noted on exam and she should have formal testing through her 
PCP. She was started on levalbuterol in hopes of minimizing her 
palpitations that she had with albuterol. 

#Costochondritis: Chest pain likely MSK in nature as describes 
as worse with coughing and onset from coughing past several 
days. ECG NSR in ED. Low suspicion for ACS but she was r/o with 
neg trops and ckmb x2. She received Tylenol and ibuprofen for 
her pain.

#Tobacco use disorder: motivated to quit. nicotine gum, declined 
patch as says it makes her itchy.

Chronic:
#Back pain: Tylenol and ibuprofen prn
#GERD: cont home ranitidine
#Psych: cont home citalopram, lorazepam
___: cont home vit d3 and calcium supplements

CODE: Full confirmed with patient 
EMERGENCY CONTACT: sister ___ ___

===========================
Transitional issues:
-Motivated to quit smoking, prescribed nicotine lozenges as she 
does not like the patches
-Started on levalbuterol
-Recommend outpatient PFTs 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO QHS:PRN anxiety or insomnia 
2. Ranitidine 150 mg PO BID:PRN reflux symptoms 
3. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -400 unit oral BID 
4. Citalopram 40 mg PO DAILY 
5. albuterol sulfate 90 mcg/actuation inhalation QID:PRN 
6. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  levalbuterol tartrate 45 mcg/actuation inhalation QID:PRN 
shortness of breath 
please take ___ puffs as needed for shortness of breath 
RX *levalbuterol tartrate [Xopenex HFA] 45 mcg/actuation ___ 
puffs inhaled qid prn Disp #*1 Inhaler Refills:*0 
2.  Nicotine Lozenge 2 mg PO Q2H:PRN nicotine withdrawal 
RX *nicotine (polacrilex) [Nicorette] 4 mg please take 1 lozenge 
every 2 hours as needed q2h prn Disp #*108 Lozenge Refills:*0 
3.  Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -400 unit oral BID  
4.  Citalopram 40 mg PO DAILY  
5.  LORazepam 0.5 mg PO QHS:PRN anxiety or insomnia  
6.  Ranitidine 150 mg PO BID:PRN reflux symptoms  
7.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
URI
Secondary diagnosis:
Costochondritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to take care of you at ___ 
___. You had an Upper Respiratory Infection caused by 
a virus. You also had tests to make sure that you did not have a 
heart attack and they did not show any signs of a heart attack. 
You had a chest x-ray that did not show any signs of a lung 
infection (aka pneumonia).

Also, we understand that you did not enjoy how albuterol sulfate 
(AccuNeb) made you feel jittery and give you heart palpitations. 
Although uncommon, this medication is known to sometimes cause 
chest discomfort, like what you experienced yesterday morning 
upon receiving the AccuNeb. Fortunately, a separate medication, 
called Levalbuterol (Xopenex), was recently developed to provide 
the same treatment as AccuNeb, but without the risk of chest 
discomfort. We have therefore replaced your AccuNeb prescription 
with Xopenex. Please know that the chemicals in this medication 
will help you when have difficulty with breathing.

You should follow up with your regular doctor within one week.

Also, it is important that you stop smoking. 

Sincerely,
Your ___ Team

=======================================================

Estimada Sra. ___,

Fue un placer ___. 
Usted ___ una infección respiratoria causada por un virus. 
También hicimos pruebas para asegurar de que usted no ___ un 
ataque ___ corazón. Una radiografía de tórax no mostró ningún 
signo de una infección pulmonar (también conocido como 
neumonía).

Además, entendemos que no gozara cómo sulfato de albuterol 
(AccuNeb) hizo sentir ___ del 
corazón. Aunque es poco frecuente, este medicamento a veces 
causa molestias en ___ igual que lo que ___ por 
la mañana ___ recibir ___ AccuNeb. Afortunadamente, otro 
medicamento similar, Levalbuterol (Xopenex), fue desarrollado 
recientemente sin ___ de molestias en ___. Hemos 
___ por AccuNeb a Xopenex. Por favor, use ___ 
Xopenex cuando tenga dificultad para respirar.

Usted debe hacer un seguimiento con ___ médico primario dentro de 
una semana. Tambien, es importante que usted deje de fumar. 

Atentamente,
___ médico ___
 
Followup Instructions:
___